US04399134
A mixture of 3.5 g of 9-fluoro-8-bromo-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid, 6 g of 4-acetylaminopiperidine and 30 ml of hexamethylphosphoric triamide was heated at 150° C. for 4 hours. After completion of reaction, hexamethylphosphoric triamide was distilled off under reduced pressure, and the residue was recrystallized from dimethylformamide-water. Crystals which formed were again recrystallized from dimethylformamide to give 0.82 g of 9-fluoro-8-(4-acetylamino-1-piperidyl)-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid. m.p. 274°-277° C., white rhombic crystals.

reactant | 9-fluoro-8-bromo-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 3.5 g | FC1=C(C=2CCC(N3C=C(C(C(C23)=C1)=O)C(=O)O)C)Br | C14H11BrFNO3
reactant | 4-acetylaminopiperidine | 6 g | C(C)(=O)NC1CCNCC1 | C7H14N2O
solvent | hexamethylphosphoric triamide | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | hexamethylphosphoric triamide | 30 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 9-fluoro-8-(4-acetylamino-1-piperidyl)-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 0.82 g | FC1=C(C=2CCC(N3C=C(C(C(C23)=C1)=O)C(=O)O)C)N1CCC(CC1)NC(C)=O | C21H24FN3O4
